US04342765
A solution of 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methoxycyclobutene-3,4-dione (0.25 g.) in warm methanol/chloroform (50:50 v/v) (50 ml.) was treated with 14 ml. of a solution of methylamine in ethanol (33% w/v) and the resulting solution allowed to stand at room temperature for 2 hours. Concentration of the reaction mixture gave a crystalline solid (0.21 g.) which was collected and washed with a small volume of methanol to give 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methylaminocyclobutene-3,4-dione, obtained as the hemihydrate, m.p. 263°-268° (decomp.).

reactant | 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methoxycyclobutene-3,4-dione | 0.25 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)OC | C15H19N5O3S
reactant | methylamine | CN | CH5N
solvent | methanol chloroform | 50 ml | CO.C(Cl)(Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methylaminocyclobutene-3,4-dione | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)NC | C15H20N6O2S
